US06245799B1
N-methyl o-Anisidine
To a cold solution of 9.0 g of N-formyl o-anisidine in 50 mL of THF was added 66 mL of a 1M solution of LAH in THF dropwise at 0° C. After complete addition the reaction mixture was stirred at 0° C. for one h. The reaction was then quenched with ethyl acetate, then with a saturated solution of NH4Cl. The mixture was extracted with ether, the combined extracts were dried over magnesium sulfate, and the solvent was removed to give 6.0 g of product. 1H NMR (300 MHz, CDCl3) δ 2.85 (s, 3H), 3.83 (s, 3H), 4.16 (s, 1H), 6.61 (dd, 1H), 6.69 (m, 1H), 6.75 (dd, 1H), 6.87 (m, 1H).

reactant | N-formyl o-anisidine | 9.0 g | C(=O)NC=1C(OC)=CC=CC1 | C8H9NO2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | N-methyl o-Anisidine | 6.0 g | CNC=1C(OC)=CC=CC1 | C8H11NO
